US05500406
1.76 g (14.7 mmol) of N-methoxy-N-methylthiourea was dissolved in 5 ml of N,N-dimethylformamide. 2.09 g (14.7 mmol) of methyl iodide was added thereto at room temperature, and the mixture was stirred at room temperature for 15 hours. 500 ml of ethyl acetate was added thereto, and precipitated crystals were collected by filtration and then washed with ethyl acetate to obtain 2.7 g of N-methoxy-N-methyl-S-methylisothiourea hydroiodide as pale yellow crystals.

reactant | N-methoxy-N-methylthiourea | 14.7 mmol, 1.76 g | CON(C(=S)N)C | C3H8N2OS
reactant | methyl iodide | 14.7 mmol, 2.09 g | CI | CH3I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-methoxy-N-methyl-S-methylisothiourea hydroiodide | 2.7 g | I.CON(C(SC)=N)C | InChI=1S/C4H10N2OS.HI/c1-6(7-2)4(5)8-3;/h5H,1-3H3;1H
